US04093812
Add 3 ml of 65% nitric acid dropwise to 11 ml of acetic anhydride at room temperature. Then add 1 drop of concentrated sulfuric acid thereto before stirring for 30 minutes and then incorporating therein 1.5 g of 3-(2-furyl)-1H-pyrazole-4-carboxaldehyde. Stir the resulting admixture for 45 minutes at room temperature before adding 4.8 g of sodium acetate. Heat for 1 hour at 30° C and then for 2 hours at 40° C. Pour the thus-produced solution on ice, neutralize it with concentrated ammonia solution and extract the neutralized solution several times with chloroform. Concentrate by evaporation in vacuum and then chromatograph over a silica gel column with chloroform/ethanol (9:1) to obtain 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde [m.p. 187° to 187.5° C].

reactant | nitric acid | 3 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 11 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(2-furyl)-1H-pyrazole-4-carboxaldehyde | 1.5 g | O1C(=CC=C1)C1=NNC=C1C=O | C8H6N2O2
reactant | sodium acetate | 4.8 g | C(C)(=O)[O-].[Na+]
reactant | ammonia | N | H3N
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
product | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C=O | C8H5N3O4
